US09056859B2
6-(1,3-dioxolan-2ylmethyl)-1H-isochromen-1-one (410 mg, 1.77 mmol) was dissolved in dioxane (20 mL) and HCl (20 mL, 3M) was added then stirred for 16 hrs. The reaction was extracted with ethyl acetate then separated. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. to yield (1-oxo-1H-isochromen-6-yl)acetaldehyde LC-MS (IE, m/z): 189 [M+1]+; 1H-NMR (500 MHz, CDCl3) δ ppm 9.86 (s, 1H), 8.33 (d, J=8 Hz, 1H), 7.41 (d, J=8 Hz, 1H), 734(s, 2H), 6.52 (d, J=5.5 Hz, 1H), 3.89 (s, 2H).

reactant | 6-(1,3-dioxolan-2ylmethyl)-1H-isochromen-1-one | 1.77 mmol, 410 mg | O1C(OCC1)CC=1C=C2C=COC(C2=CC1)=O | C13H12O4
reactant | HCl | 3M, 20 mL | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (1-oxo-1H-isochromen-6-yl)acetaldehyde | O=C1OC=CC2=CC(=CC=C12)CC=O | C11H8O3
